reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:5](\[O:6][N+:4]#[C-:3])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],121.394025439648
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:5](=[O:6])[H:11])([H:7])([H:8])[H:9].[C:2](=[N:3][H:10])=[O:4],82.9625379443541
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]([C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],80.8137110809912
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[C:3]([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11],115.263283903398
[C-:6]#[O+:7].[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.62489261678809
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:11])[H:12],67.9394384726106
[C:1]1([H:7])([H:8])[C:2][C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],4.310075824568699
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]([O+:7]=[C-:6][H:17])([H:14])[C:5]1([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],50.8111844212524
[C:3](=[C:4]([H:11])[H:12])([H:9])[H:10].[N:1]([C+:2]=[C:5]=[N-:6])([H:7])[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],13.8292733604683
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1](=[N+:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([O-:6])([H:7])[H:15])([H:13])[H:14])([H:8])[H:9],61.6831082622906
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:1](#[C:2][C:4](/[C:3](=[N:5]/[H:10])[H:7])([H:8])[H:9])[H:6],88.1219326912212
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[O:3]=[C:4]([O:5][H:8])[N:6]([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],33.503702215371696
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[O:4])([H:12])[H:13].[C:5](=[O:6])([H:9])[H:14],96.2062713583519
[C:1]([C:2]([H:9])([H:10])[H:11])([N:6]=[C:5]=[C:3]([N:4]([H:13])[H:14])[H:12])([H:7])[H:8]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.71059650162269
[C:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[O:5][H:16])([C:6]#[C:7][H:17])[H:12])([H:8])([H:9])[H:10].[H:11][H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],95.72500898164711
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6][O:7][H:16])[H:15])[H:11])([H:8])([H:9])[H:10],73.6920643883289
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])[H:12])([H:8])[H:10].[H:9][H:11],84.7300569018029
[C:1]([C:2]([H:6])([H:8])[H:9])([O+:4]=[C-:3][H:10])([H:5])[H:7]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],48.7263692598616
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5][N:6]1[H:8]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],57.66034581448589
[C:1]([C:2]([O:3][N+:6]#[C-:5])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],29.580832102394297
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:7])[H:11])([H:9])[H:10])[H:8],49.178577194756095
[C:1]([C@@:2]1([O+:7]=[C-:6][H:13])[O:3][C@:4]1([O:5][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],19.2899769720902
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:12])[H:13])([H:7])([H:8])[H:10].[H:9][H:11],96.1069002305176
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11],86.0561720502606
